US04902684
A. (2S,4R)-4-hydroxy-1-(t-butoxycarbonyl)-2-pyrrolidinecarboxylic acid
A suspension of 20.0 g (0.152 mole) of trans-4-hydroxy-L-proline and 38.0 g (0.174 mole) of di-tertiary butyl dicarbonate in 250 ml of dioxane was treated gradually with 350 ml of 1N NaOH, then stirred at room temperature for 24 hours. The mixture was concentrated in vacuo to approximately 200 ml, then diluted with 750 ml of H2O. After washing with EtOAc, the aqueous solution was acidified with 6N HCl and saturated with NaCl before extraction with EtOAc (×2X). The organic solution was washed with H2O and brine, dried and evaporated to give 30.9 g of the title A compound as a tan solid, m.p. 104°-106° .

reactant | trans-4-hydroxy-L-proline | 0.152 mole, 20.0 g | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | di-tertiary butyl dicarbonate | 0.174 mole, 38.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaOH | 1N, 350 ml | [OH-].[Na+]
solvent | dioxane | 250 ml | O1CCOCC1 | C4H8O2
product | (2S,4R)-4-hydroxy-1-(t-butoxycarbonyl)-2-pyrrolidinecarboxylic acid | O[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C10H17NO5
